US06043248
4-Amino-6-chloro-2-(1-(3-isoquinolyl)ethyl)thio-pyrimidine (475 mg, 1.5 mmole) is suspended in 15 ml methanol in a 50 ml one neck round bottom flask under nitrogen at 0° C. The suspension is treated slowly dropwise with bromine (85 μl, 1.65 mmole) and the reaction mixture is stirred 20 min at 0° C. The volatiles are removed in vacuo and the residue is partitioned between 1×50 ml dichloromethane and 1×50 ml saturated sodium carbonate followed by 1×50 ml saturated sodium thiosulfate. The organic layer is dried over potassium carbonate and is concentrated in vacuo to a white foam. Crystallization from 1:9 diethyl ether/hexane afforded 513 mg (86%) of 4-Amino-5-bromo-6-chloro-2-(1-(3-isoquinolyl)ethyl)thio-pyrimidine as a white solid.

reactant | 4-Amino-6-chloro-2-(1-(3-isoquinolyl)ethyl)thio-pyrimidine | 1.5 mmole, 475 mg | NC1=NC(=NC(=C1)Cl)SC(C)C=1N=CC2=CC=CC=C2C1 | C15H13ClN4S
reactant | bromine | 1.65 mmole, 85 μl | BrBr | Br2
solvent | methanol | 15 ml | CO | CH4O
product | 4-Amino-5-bromo-6-chloro-2-(1-(3-isoquinolyl)ethyl)thio-pyrimidine | 513 mg, 86% | NC1=NC(=NC(=C1Br)Cl)SC(C)C=1N=CC2=CC=CC=C2C1 | C15H12BrClN4S
